US06015825
A mixture of 2-(2,4-difluorophenyl)-3-(iodophenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol (4.0 g, 8.8 mmol-see Preparation 20), 3,3-diethyloxyprop-1-yne (1.52 ml, 10.6 mmol), copper(l)iodide (0.02 g) and bis(triphenylphosphine)palladium dichloride (0.12 g) In triethylamine (40 ml) and tetrahydrofuran (13 ml) was stirred at room temperature for 18 hours. The solvents were removed under reduced pressure and the residue was partitioned between dichloromethane (50 ml) and water (50 ml). The organic layer was dried (MgSO4) and evaporated under reduced pressure. The residue was flash chromatographed on silica by elution with ethyl acetate. Fractions containing the desired product were combined and evaporated under reduced pressure to yield 2-(2,4-difluorophenyl)-3-(4-[3,3-diethoxyprop-1-yn-1-yl]phenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol as a yellow gum (2,4 g, 60%). Trituration with cyclohexane gave an off-white solid which was characterised by NMR.

reactant | 2-(2,4-difluorophenyl)-3-(iodophenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol | 8.8 mmol, 4.0 g | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(=C)C1=C(C=CC=C1)I)O | C18H14F2IN3O
reactant | 3,3-diethyloxyprop-1-yne | 10.6 mmol, 1.52 ml | C(C)OC(C#C)OCC | C7H12O2
solvent | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium dichloride | 0.12 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2,4-difluorophenyl)-3-(4-[3,3-diethoxyprop-1-yn-1-yl]phenyl)-1-(1,2,4-triazol-1-yl)-3-buten-2-ol | 2,4 g, 60% | FC1=C(C=CC(=C1)F)C(CN1N=CN=C1)(C(=C)C1=CC=C(C=C1)C#CC(OCC)OCC)O | C25H25F2N3O3
